US08957074B2
Following general amide formation method 1, 6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (100 mg, 0.254 mmol, 1.0 eq) was combined with 8-Methyl-3,8-diaza-bicyclo[3.2.1]octane (55.5 mg, 0.279 mmol, 1.1 eq) which gave 7-cyclopentyl-2-[5-(8-methyl-3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as solid (77 mg) in 60% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.56-1.76 (m, 4H) 2.01 (br. s., 6H) 2.44 (br. s., 4H) 3.06 (br. s., 8H) 3.33 (br. s., 4H) 3.49 (br. s., 4H) 4.76 (quin, J=8.84 Hz, 1H) 6.66 (s, 1H) 7.82-7.88 (m, 1H) 8.33-8.41 (m, 2H) 8.85 (s, 1H) 10.05 (s, 1H)

reactant | 6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.254 mmol, 100 mg, 1.0 eq | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 8-Methyl-3,8-diaza-bicyclo[3.2.1]octane | 0.279 mmol, 55.5 mg, 1.1 eq | CN1C2CNCC1CC2 | C7H14N2
product | 7-cyclopentyl-2-[5-(8-methyl-3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 77 mg, 60% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CCC(C2)N3C)N1C1CCCC1)C | C27H34N8O2
